MM13 (VOUT1 net38 VSS VSS) nmos4
MM9 (net38 net35 VSS VSS) nmos4
MM8 (net35 net35 VSS VSS) nmos4
MM12 (VOUT1 net1004 VDD VDD) pmos4
MM11 (net33 net1004 VDD VDD) pmos4
MM10 (net38 VIN2 net33 net39) pmos4
MM7 (net35 VIN1 net33 net39) pmos4
CC2 (VOUT1 net38) capacitor
MM10 (net1004 net1007 VSS VSS) nmos4
MM3 (net1004 net1004 VDD VDD) pmos4
MM5 (net014 net014 VSS VSS) nmos4
MM4 (net15 net014 VSS VSS) nmos4
MM2 (VB1 net1007 net15 VSS) nmos4
MM0 (net1007 net1007 VSS VSS) nmos4
MM6 (net014 VB1 VDD VDD) pmos4
MM3 (VB1 VB1 VDD VDD) pmos4
MM1 (net1007 VB1 VDD VDD) pmos4